US07429609B2
{3-[(E)-2-(4-Fluorophenyl)-vinyl]-4-methoxy-1H-indazole-5-carbonyl}-aminoacetic acid
472 mg of {3-[(E)-2-(4-fluorophenyl)-vinyl]-4-methoxy-1H-indazole-5-carbonyl}-aminoacetic acid tert-butyl ester was dissolved in 5 mL of dichloromethane, 2.5 mL of trifluoroacetic acid was added, and stirred overnight at room temperature. The reaction solution was added with water, and extracted with a mixed solution of ethyl acetate:tetrahydrofuran=1:1. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, to give 384 mg of the title compound as a pale yellow solid.

reactant | {3-[(E)-2-(4-fluorophenyl)-vinyl]-4-methoxy-1H-indazole-5-carbonyl}-aminoacetic acid tert-butyl ester | 472 mg | C(C)(C)(C)OC(C(N)C(=O)C=1C(=C2C(=NNC2=CC1)\C=C\C1=CC=C(C=C1)F)OC)=O | C23H24FN3O4
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | {3-[(E)-2-(4-Fluorophenyl)-vinyl]-4-methoxy-1H-indazole-5-carbonyl}-aminoacetic acid | 384 mg | FC1=CC=C(C=C1)/C=C/C1=NNC2=CC=C(C(=C12)OC)C(=O)C(C(=O)O)N | C19H16FN3O4
